*$
* PART NUMBER:NJM2726
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2006
.Subckt NJM2726 OUT V- IN+ IN- V+
X_U1     IN+ IN- V+ V- OUT NJM2726_ME
.ends  NJM2726
.subckt NJM2726_ME 1 2 3 4 5
  c1   11 12 660.25E-15
  c2    6  7 2.0000E-15
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 527.37 -1E3 1E3 530 -530
  ga    6  0 11 12 28.274E-3
  gcm   0  6 10 99 2.8274E-6
  iee   3 10 dc 15.030E-3
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 35.368
  rc2   4 12 35.368
  re1  13 10 31.856
  re2  14 10 31.856
  ree  10 99 13.307E3
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 61.740
  vb    9  0 dc 0
  vc    3 53 dc 1.9979
  ve   54  4 dc 1.0979
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=493.10)
.model qx2 PNP(Is=860.9810E-18 Bf=507.10)
.ends
*$